US05350872
Preparation of monoethyl 3,4-dimethoxybenzylmalonate monohydrate
2.94 g (0.01 mol) of 5-(3,4-dimethoxyphenylmethyl)-2,2-dimethyl-1,3-dioxane-4,6-dione (m.p.: 142°-144° C.) and 0.83 ml of the mixture containing formic acid and triethylamine prepared as described in Example 1 were added to 8 ml of ethanol. After refluxing the reaction mixture for 6 hours, the method described in Example 25 was followed. The crude product was crystallized from a mixture of methanol and water.

reactant | 5-(3,4-dimethoxyphenylmethyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | 0.01 mol, 2.94 g | COC=1C=C(C=CC1OC)CC1C(OC(OC1=O)(C)C)=O | C15H18O6
reactant | formic acid | C(=O)O | CH2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | monoethyl 3,4-dimethoxybenzylmalonate monohydrate | O.COC=1C=C(CC(C(=O)OCC)C(=O)O)C=CC1OC | InChI=1S/C14H18O6.H2O/c1-4-20-14(17)10(13(15)16)7-9-5-6-11(18-2)12(8-9)19-3;/h5-6,8,10H,4,7H2,1-3H3,(H,15,16);1H2
